US07547702B2
Analogously to example 17, 2,4,7-trichloro-quinazoline is reacted with 2-pyridin-2-yl-ethylamine to give (7-chloro-quinazolin-4-yl)-(2-pyridin-2-yl-ethyl)-amine and is further reacted

reactant | 2,4,7-trichloro-quinazoline | ClC1=NC2=CC(=CC=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | 2-pyridin-2-yl-ethylamine | N1=C(C=CC=C1)CCN | C7H10N2
product | (7-chloro-quinazolin-4-yl)-(2-pyridin-2-yl-ethyl)-amine | ClC1=CC=C2C(=NC=NC2=C1)NCCC1=NC=CC=C1 | C15H13ClN4
